US05160498
A mixture consisting of 50 g (0.33 mole) of 4-tert-butyl-phenol, 1.35 g of the catalyst prepared as described above under example 1A and 100 g of cyclohexane was introduced in an autoclave under nitrogen and then hydrogen was introduced until a stable pressure around 16×105Pa had been established. The reaction mixture was then heated to about 98° and the reaction was followed by gas chromatography. After 135 min, the reaction was interrupted by cooling to around 45° and the autoclave was purged with a nitrogen flow. After filtering, the catalyst was recovered under a flow of argon, washed with cyclohexane and recycled for the following hydrogenation operations. 4-tert-Butyl-cyclohexanol was obtained by distillation of the clear filtrate in 98% yield. The isomeric content was 81.9% of the cis isomer and 15.9% of the trans isomer.

reactant | 4-tert-butyl-phenol | 0.33 mole, 50 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | hydrogen | [H][H] | H2
solvent | cyclohexane | 100 g | C1CCCCC1 | C6H12
product | 4-tert-Butyl-cyclohexanol | 98% yield | C(C)(C)(C)C1CCC(CC1)O | C10H20O
